US07414045B2
Step 3: Methyl 3-(benzoyloxy)-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine-2-carboxylate
To a solution of methyl 3-hydroxy-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine-2-carboxylate in pyridine, benzoic anhydride (1.1 eq.) and a catalytic amount of dimethylaminopyridine were added. The mixture was stirred at room temperature for 3 h. The solvent was removed under reduced pressure and the residue partitioned between dichloromethane and 1 M aq. HCl. The aqueous phase was extracted with dichloromethane and the combined organic phases were washed with 1 M aq. HCl and brine. The organic phase was dried over sodium sulfate, filtered and concentrated to dryness under vacuum. Title compound was obtained after flash chromatography (eluents petroleum ether/ethyl acetate, 6:4) as a brown solid.

reactant | methyl 3-hydroxy-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine-2-carboxylate | OC1=C(N=C2N(CCCCC2)C1=O)C(=O)OC | C11H14N2O4
reactant | benzoic anhydride | 1.1 eq. | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Methyl 3-(benzoyloxy)-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine-2-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C2N(CCCCC2)C1=O)C(=O)OC | C18H18N2O5
